US06713496B2
(2R)-1-[(4-Methoxybenzyl)amino]-2-propanol
A solution of (R)-(−)-1-amino-2-propanol (9.00 g, 0.12 mol) in tetrahydrofuran (40 ml) and acetic acid (5 ml) was added dropwise to a solution of p-anisaldehyde (5.45 g, 0.04 mol) in tetrahydrofuran (40 ml), and once addition was complete, the solution was stirred at room temperature for 2 hours. The solution was cooled in an ice-bath, and sodium triacetoxyborohydride (9.50 g, 0.0.045 mol) was added portionwise, and then the mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between dichloromethane (150 ml) and sodium hydroxide solution (150 ml, 0.5N). The layers were separated and the aqueous phase was saturated with sodium chloride, then extracted with further dichloromethane (3×30 ml). The combined organic solutions were dried (MgSO4) and evaporated under reduced pressure. The residue was purified by chromatography on silica gel (gradient elution 98:2:0.2 to 97:3:0.3 dichloromethane:methanol:0.88 NH3) to afford an orange oil (4.9 g). 1H-NMR (CDCl3, 400 MHz) δ: 1.12 (d, 3H), 2.39 (dd, 1H), 2.70 (dd, 1H), 3.62-3.79 (m, 6H), 6.82 (d, 2H), 7.19 (d, 2H). LRMS: m/z (ES+) 196 [MH+].

reactant | (R)-(−)-1-amino-2-propanol | 0.12 mol, 9.00 g | NC[C@@H](C)O | C3H9NO
reactant | p-anisaldehyde | 0.04 mol, 5.45 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | sodium triacetoxyborohydride | 9.50 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (2R)-1-[(4-Methoxybenzyl)amino]-2-propanol | 4.9 g | COC1=CC=C(CNC[C@@H](C)O)C=C1 | C11H17NO2
